US03992459
Step A: Preparation of 2,4-difluorobiphenyl
To a 50 liter resin pot equipped with stirrer, thermometer, nitrogen-inlet, internal steam coil and reflux condenser is charged 31.5 liters of benzene, 1.025 liters of isoamyl nitrite and 700 g. (5.43 moles) of 2,4-difluoroaniline.

reactant | isoamyl nitrite | 1.025 liters | N(=O)OCCC(C)C | C5H11NO2
reactant | 2,4-difluoroaniline | 5.43 moles | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | benzene | 31.5 liters | C1=CC=CC=C1 | C6H6
product | 2,4-difluorobiphenyl | FC1=C(C=CC(=C1)F)C1=CC=CC=C1 | C12H8F2
